US05702696
636 grams (6-bromohexyl)trimethylammonium bromide
Six percent crosslinked poly(allylamine) was made as stated in Example 82. To a flask were added the crosslinked poly(allylamine) (12.5 grams; 6% crosslinked; ground to ~30 mesh), (3-bromopropyl)dodecyldimethylammonium bromide (17.5 grams; made by reaction of 1,3-dibromopropane and N,N-dimethyl-1-aminododecane in diethyl ether), and methanol (334 mL). The mixture was heated to 65° C. with stirring. Upon reaching 65° C., aqueous sodium hydroxide (1.14 grams of 50% solution) was added and the stirring continued at 65° C. for 2 hours. Two additional aliquots of aqueous sodium hydroxide (1.14 grams of 50% solution) were sequentially added and the stirring continued at 65° C. for an additional 2 hours for each aliquot. Aqueous sodium hydroxide (1.14 grams of 50% solution) was then added and the stirring continued at 65° C. for an additional 12 hours. The mixture was then allowed to cool to room temperature.

reactant | (3-bromopropyl)dodecyldimethylammonium bromide | 17.5 grams | [Br-].BrCCC[N+](C)(C)CCCCCCCCCCCC
reactant | sodium hydroxide | 1.14 grams | [OH-].[Na+]
reactant | sodium hydroxide | 1.14 grams | [OH-].[Na+]
reactant | sodium hydroxide | 1.14 grams | [OH-].[Na+]
solvent | methanol | 334 mL | CO | CH4O
product | (6-bromohexyl)trimethylammonium bromide | [Br-].BrCCCCCC[N+](C)(C)C | InChI=1S/C9H21BrN.BrH/c1-11(2,3)9-7-5-4-6-8-10;/h4-9H2,1-3H3;1H/q+1;/p-1
